US07368578B2
A mixture of 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine (1.2 g), triethyl phosphite (2.1 g) was stirred at 160° C. for 20 hrs. Excess triethyl phosphite was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:1, v/v), then ethyl acetate-methanol (10:1, v/v) to give diethyl {[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]methyl}phosphonate as a yellow oil (1.7 g, yield 95%). NMR (CDCl3) δ: 1.30 (6H, t, J=7.1 Hz), 2.27 (3H, d, J=4.1 Hz), 3.11 (2H, d, J=20.9 Hz), 3.31-3.43 (4H, m), 3.72-3.85 (4H, m), 3.99-4.20 (4H, m).

reactant | 4-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)morpholine | 1.2 g | ClCC=1N=C(SC1C)N1CCOCC1 | C9H13ClN2OS
reactant | triethyl phosphite | 2.1 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | diethyl {[5-methyl-2-(morpholin-4-yl)-1,3-thiazol-4-yl]methyl}phosphonate | 1.7 g, yield 95% | CC1=C(N=C(S1)N1CCOCC1)CP(OCC)(OCC)=O | C13H23N2O4PS
